US04612376
To a solution of ethyl veratroylacetate (8.0 g) in tetralin (24 ml) was added N-methylurea (3.52 g) and the mixture was heated for an hour at 170° C. After being cooled to 95° C., ethyl acetate (33 ml) was added thereto. The precipitate was collected by filtration and washed with ethyl acetate to give 6-(3,4-dimethoxyphenyl)-3-methyl-2,4(1H,3H)-pyrimidinedione (3.35 g).

reactant | ethyl veratroylacetate | 8.0 g | C(C1=CC(OC)=C(OC)C=C1)(=O)CC(=O)OCC | C13H16O5
reactant | N-methylurea | 3.52 g | CNC(=O)N | C2H6N2O
reactant | ethyl acetate | 33 ml | C(C)(=O)OCC | C4H8O2
solvent | tetralin | 24 ml | C1CCCC2=CC=CC=C12 | C10H12
product | 6-(3,4-dimethoxyphenyl)-3-methyl-2,4(1H,3H)-pyrimidinedione | 3.35 g | COC=1C=C(C=CC1OC)C1=CC(N(C(N1)=O)C)=O | C13H14N2O4
